US06248892B1
216.5 g (3.0 mol) of tetrahydrofuran (THF), 113.5 g (1.0 mol) of 2-chloropyridine and 0.24 g of Pd(dppf)Cl2 (0.03 mol %) are placed in a flask and heated to 50° C. while stirring. 510 g of phenylmagnesium chloride solution in THF (27% strength) are slowly metered in while cooling externally so that the temperature does not exceed 50° C. The mixture is then stirred for another 90 minutes at this temperature. It is slowly hydrolyzed with 250 g of water and allowed to cool to room temperature. After phase separation, the aqueous phase is stirred with 250 ml of tert-butyl methyl ether. After renewed phase separation, the organic phases combined and the reaction mixture is evaporated at 150 mbar. It is subsequently distilled at atmospheric pressure until a bottom temperature of 80° C. has been reached. The distillation residue is distilled at 10 mbar, giving 152.0 g of 2-phenylpyridine (98.1%), purity: 98.7% (according to GC).

reactant | 2-chloropyridine | 1.0 mol, 113.5 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | phenylmagnesium chloride | 510 g | C1(=CC=CC=C1)[Mg]Cl
reactant | water | 250 g | O | H2O
solvent | THF | O1CCCC1 | C4H8O
catalyst | Pd(dppf)Cl2 | 0.24 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | tetrahydrofuran | 3.0 mol, 216.5 g | O1CCCC1 | C4H8O
product | 2-phenylpyridine | 152.0 g, 98.1% | C1(=CC=CC=C1)C1=NC=CC=C1 | C11H9N
